US05545653
A. 3-Amino-4-nitro-4'-fluorobenzophenone
To a cold (0° C.) solution of 17.25 g (100 mmol) of 5-chloro-2-nitroaniline and 12 ml (100 mmol) of 4-fluorophenylacetonitrile in 200 ml of dimethylformamide, was added 22.44 g (200 mmol) of potassium t-butoxide, under nitrogen. The resultant reaction mixture was warmed to room temperature and reacted overnight. When the reaction was substantially complete, as indicated by TLC (eluent of 40% ethyl acetate in hexane), the reaction mixture was cooled to 0° C. followed by the addition of 30 ml of hydrogen peroxide. When the reaction was substantially complete, as indicated by TLC (eluent of 40% ethyl acetate in hexane), the reaction mixture was poured into 1 liter of 1N hydrochloric acid (aqueous) which resulted in the formation of a yellow/orange precipitate. This precipitate was isolated by filtration. Yield: 23.3 g (89%).

reactant | 5-chloro-2-nitroaniline | 100 mmol, 17.25 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 4-fluorophenylacetonitrile | 100 mmol, 12 ml | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | potassium t-butoxide | 200 mmol, 22.44 g | CC(C)([O-])C.[K+]
reactant | hydrogen peroxide | 30 ml | OO | H2O2
reactant | hydrochloric acid | 1N, 1 liter | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Amino-4-nitro-4'-fluorobenzophenone | NC=1C=C(C(=O)C2=CC=C(C=C2)F)C=CC1[N+](=O)[O-] | C13H9FN2O3
